US08034811B2
O-(4-Methyl-3-trifluoromethyl-benzyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 15, starting from N-hydroxyphthalimide and 4-methyl-3-(trifluoromethyl)benzyl bromide (JRD fluorochemicals). 13C-NMR (CDCl3) δ 136.4, 135.5, 132.1, 131.5, 129.0, 125.8, 124.5, 77.0, 19.1.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-methyl-3-(trifluoromethyl)benzyl bromide | CC1=C(C=C(CBr)C=C1)C(F)(F)F | C9H8BrF3
product | O-(4-Methyl-3-trifluoromethyl-benzyl)-hydroxylamine | CC1=C(C=C(CON)C=C1)C(F)(F)F | C9H10F3NO
